US05972508
115.1 g (1 mol) of N-hydroxysuccinimide are introduced into 600 ml of toluene in a round-bottom flask, and 127.3 g (1 mol) of dimethylcyclohexylamine are added. At 60° C., 162.5 g (1 mol) of octanoyl chloride in 180 ml of toluene are added dropwise. The reaction mixture is stirred at 60° C. for 5 hours. Subsequently water is added and the organic phase is washed with water, concentrated hydrochloric acid, water and sodium bicarbonate solution in this order. The organic phase is dried over sodium sulfate, filtered and concentrated. The crystallized residue is dried at 40° C./100 mbar. 219 g (90%) of octanoyloxysuccinimide are obtained with a purity of 99.5%.

reactant | N-hydroxysuccinimide | 1 mol, 115.1 g | ON1C(CCC1=O)=O | C4H5NO3
reactant | dimethylcyclohexylamine | 1 mol, 127.3 g | CN(C1CCCCC1)C | C8H17N
reactant | octanoyl chloride | 1 mol, 162.5 g | C(CCCCCCC)(=O)Cl | C8H15ClO
reactant | water | O | H2O
solvent | toluene | 180 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 600 ml | C1(=CC=CC=C1)C | C7H8
product | octanoyloxysuccinimide | 219 g, 90% | C(CCCCCCC)(=O)OC1C(=O)NC(C1)=O | C12H19NO4
